US04709068
To a stirred suspension of 3.5 g (0.14 mole) of magnesium powder in 100 ml of dry tetrahydrofuran was added dropwise 17.5 g (0.14 mole) of p-bromophenyl ethyl ether during a one hour period. The mixture was warmed for one hour and then cooled to room temperature. The reaction mixture was added dropwise to a solution of dichlorodimethylsilane in 100 ml of dry tetrahydrofuran which was cooled to -78° C. Upon completion of addition the reaction mixture was allowed to warm to room temperature. Stirring was continued overnight. After dilution with hexane, the reaction mixture was filtered through celite, and the solvent was evaporated under reduced pressure, leaving a liquid residue. Distillation of this residue yielded 18 g of chloro(4-ethoxyphenyl)dimethylsilane as a clear, colorless oil, b.p. 79°-81° C./0.09 mm of Hg.

reactant | magnesium | 0.14 mole, 3.5 g | [Mg] | Mg
reactant | p-bromophenyl ethyl ether | 0.14 mole, 17.5 g | C(C)OC1=CC=C(C=C1)Br | C8H9BrO
reactant | dichlorodimethylsilane | Cl[Si](C)(C)Cl | C2H6Cl2Si
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | chloro(4-ethoxyphenyl)dimethylsilane | 18 g | Cl[Si](C)(C)C1=CC=C(C=C1)OCC | C10H15ClOSi
